US08664387B2
3-[(1S,2S)-2-Hydroxycyclohexyl]-6-[4-(1-hydroxyprop-2-en-1-yl)benzyl]pyrido[3,4-h]quinazolin-4(3H)-one was prepared by the procedure described for the synthesis of 3-[(1S,2S)-2-hydroxycyclohexyl]-6-[4-(1-hydroxyethyl)benzyl]pyrido[3,4-h]quinazolin-4(3H)-one in Example 11, substituting vinylmagnesium bromide for methylmagnesium bromide.

reactant | 3-[(1S,2S)-2-hydroxycyclohexyl]-6-[4-(1-hydroxyethyl)benzyl]pyrido[3,4-h]quinazolin-4(3H)-one | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC1=CC=C(C=C1)C(C)O)C=NC=C3 | C26H27N3O3
reactant | methylmagnesium bromide | C[Mg]Br
product | 3-[(1S,2S)-2-Hydroxycyclohexyl]-6-[4-(1-hydroxyprop-2-en-1-yl)benzyl]pyrido[3,4-h]quinazolin-4(3H)-one | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC1=CC=C(C=C1)C(C=C)O)C=NC=C3 | C27H27N3O3
